US04329460
In 20 ml. of acetone is dissolved 4.40 g. of ethyl 5-fluoro-6-hydroxy-1,2,3,4,5,6-hexahydro-2,4-dioxo-pyrimidine-5-carboxylate, followed by the addition of 2.5 ml. of acetic anhydride. To this is further added dropwise 2 ml. of pyridine and the mixture is allowed to stand at room temperature for 24 hours. To the colorless reaction mixture thus obtained is added dropwise 5.9 ml. of piperidine, whereby the reaction takes place with evolution of heat. After 5.5 hours' standing at room temperature, volatiles are distilled off under reduced pressure and the yellow oily residue is dissolved in chloroform. The solution is subjected to column chromatography on silica gel (80 g., solvent:chloroform). The fractions rich in the desired compound are concentrated under reduced pressure to recover 5.20 g. of a white solid. Upon recrystallization from chloroform-hexane, 3.0 g. of ethyl 5-fluoro-6-piperidino-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate is obtained as colorless needles.

reactant | acetone | CC(=O)C | C3H6O
reactant | ethyl 5-fluoro-6-hydroxy-1,2,3,4,5,6-hexahydro-2,4-dioxo-pyrimidine-5-carboxylate | FC1(C(NC(NC1O)=O)=O)C(=O)OCC | C7H9FN2O5
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
reactant | piperidine | N1CCCCC1 | C5H11N
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | ethyl 5-fluoro-6-piperidino-1,2,3,4,5,6-hexahydro-2,4-dioxopyrimidine-5-carboxylate | FC1(C(NC(NC1N1CCCCC1)=O)=O)C(=O)OCC | C12H18FN3O4
